US05023378
4-Ethyl-1,3-benzodioxole-5-carboxaldehyde
n-Butyl lithium in hexane (1.6M, 320 ml) was added under nitrogen to a stirred solution of N-(1,3-benzodioxol-5-ylmethylene)cyclohexanamine (100 g) in dry THF (500 ml) at -78°. After 15 min ethyl iodide (50 ml) was added and the mixture was allowed to warm slowly to -50°. Water was then added and the mixture was extracted with ether. The extracts were concentrated in vacuo and the concentrate heated in 2N hydrochloric acid (250 ml) on a steam bath for 20 min. The resultant solution was diluted with water and extracted with ether. The extracts were dried and evaporated to give the title compound (38 g) as a pale yellow oil. T.l.c. (ether:hexane, 1:9) Rf 0.3.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | N-(1,3-benzodioxol-5-ylmethylene)cyclohexanamine | 100 g | O1COC2=C1C=CC(=C2)C=NC2CCCCC2 | C14H17NO2
reactant | ethyl iodide | 50 ml | C(C)I | C2H5I
reactant | Water | O | H2O
solvent | hexane | 1.6M, 320 ml | CCCCCC | C6H14
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 4-Ethyl-1,3-benzodioxole-5-carboxaldehyde | 38 g | C(C)C1=C(C=CC=2OCOC21)C=O | C10H10O3
